US06291450B1
Preparation of 1-(4-Methoxy-benzenesulfonyl)-3-(phenylmethanesulfonylamino)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid
1-(4-Methoxy-benzenesulfonyl)-3-(phenylmethanesulfonyl amino)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester (29 mg, 0.054 mmol) is reacted in the same manner as 3-Benzyloxycarbonylamino-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester: Cal. 479.5 found (M−H)+ 478.6. Cal. 498.6, found (MNH4)+498.1; 1H NMR (DMSO, 400 MHz), ppm: 7.85 (d, 2H), 7.38 (m, 5H) 7.01 (d, 2H), 5.5 (m, 2H) 4.45 (d, 2H), 4.30 (d, 2H), 4.15 (m, 2H), 4.00 (m, 1H), 3.90 (dd, 1H), 3.83 (s, 3H), 2.18 (m, 2H).

reactant | 1-(4-Methoxy-benzenesulfonyl)-3-(phenylmethanesulfonyl amino)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester | 0.054 mmol, 29 mg | C(C)(C)(C)OC(=O)C1N(CC=CCC1NS(=O)(=O)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C25H32N2O7S2
reactant | 3-Benzyloxycarbonylamino-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1N(CC=CCC1NC(=O)OCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C26H32N2O7S
product | 1-(4-Methoxy-benzenesulfonyl)-3-(phenylmethanesulfonylamino)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)N1C(C(CC=CC1)NS(=O)(=O)CC1=CC=CC=C1)C(=O)O | C21H24N2O7S2
